Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Scheduled LTM
 
Major Surgical or Invasive Procedure:
long term EEG monitoring
 
History of Present Illness:
Mr. ___ is a ___ right-handed man with epilepsy secondary 
to TBI suffered in ___.  His typical seizures consist of 
bilateral arm extension, progressing to GTCS and fecal 
incontinence.  He has a post-ictal period lasting from 20min to 
2 or more hours during which he is minimally responsive.  After 
each seizure he has severe regression in his progress post-TBI: 
he becomes nearly aphasic, his R. hemiplegia returns, and his 
memory of household details (e.g., location of bathroom) is 
severely impaired.  This period lasts ___.  Since he 
initiated Keppra his seizure control has been improved, with one 
breakthrough in the context of a febrile viral illness.  He 
continues to have premonitory symptoms without progression to 
convulsion.  He describes these in his broken and halting 
speech: "Just... feeling.  Very... know is coming.  Very soon.  
Something bad."  These auras have lessened since his latest 
increase in Keppra, from 500 to 750mg BID.  He averages 1 
seizure every several months, though he has had siezure-free 
periods of up to 10 months.  His last seizure occurred in a 
cluster ___ months ago.  This admission for LTM is prompted 
not by the frequency or severity of his seizures, but by the 
intensity of his post-ictal
regression.  ___ and his family state emphatically that they 
desire resection of his seizure focus.
 
Past Medical History:
- TBI suffered during MVA in ___, L. craniotomy. Initial R.
hemiparesis partially recovered following extensive rehab.
Residual receptive and productive language deficicits (receptive
deficit not evident on my exam).
- Seizure onset ___
- Hypercholesterolemia
 
Social History:
___
Family History:
No history of seizures
 
Physical Exam:
Physical Exam:
T 98.1  HR 64/min, BP 109/64, RR 20, Pulse ox 98% on room air

Gen:  Awake, alert, not in distress, lying in bed, EEG leads in
place. Non-toxic appearance.
Skin: No rash, no skin breakdown.
HEENT: Normocephalic, no dysmorphic features, no conjunctival
injection, nares patent, mucous membranes moist, oropharynx
clear.  Normal light conus reflexes. 
Resp: Clear to auscultation bilaterally
CV: Regular rate, normal S1/S2, no murmurs, rubs, or gallops
Abd: Bowel sounds present, abdomen soft, non-tender, and
non-distended.  No hepatosplenomegaly or masses palpable.
Extrem: Warm and well-perfused. No arthralgia. ROM full.

Neuro:
MS - Awake, alert, interactive.  Humor preserved - frequent
joking throughout exam.  Oriented to person, place, and date. 
Speech is halting, frequently telegraphic.  Intact naming,
comprehension.  Repetition of short phrase ("no if's, and's or
buts") intact, but for longer phrase he must break it into two
short phrases, still with frequent telegraphic and substitution
errors.  Attentions is considered to be appropriate.  No
left-right confusion.

Cranial Nerves – Pupils equal and reactive (5 to 3mm); EOM 
smooth
and full, no diplopia; no nystagmus; Visual field full with
confrontation test, diminished facial sensation on the R., R.
nasolabial fold flattening, hearing intact to finger rub
bilaterally, palate elevation is symmetric, and tongue 
protrusion
is symmetric and full movement.  Sternocleidomastoid and
trapezius are strong and normal volume.
Tone - Normal in L. arm and leg, spasticity in R. wrist flexors,
finger flexors, hand intrinsics, quad, and gastroc.

Strength -
   Del Bi Tr WrEx FEx FFlx IO  / IP Quad Ham Gastr TA ___ TF
R   ___-  3    3   3    2    5   5    5   5    ___   5
L   ___   5    5   5    5    5-  5    4   4    ___   3

Reflexes -
   Biceps   Triceps   Brachioradialis  Patellar   Ankle  
R   3        3           2               3         2
L   1        1           1               1         1  
Plantar responses upgoing on the R.

Sensation - Light touch reduced in R. hand, R. foot to ~50%.

Coordination - No dysmetria, smooth finger-nose-finger on L.
Unable to test in R. secondary to weakness. 

Accurate heel-knee tapping and heel-shin bilaterally.  

Gait - R. foot held in supination, rigid during walk.  Somewhat
wide-based but stable. 

 
Pertinent Results:
___ 03:50PM BLOOD WBC-6.2 RBC-4.55* Hgb-14.8 Hct-42.1 
MCV-93 MCH-32.5* MCHC-35.1* RDW-12.3 Plt ___
___ 03:50PM BLOOD Glucose-106* UreaN-11 Creat-0.7 Na-132* 
K-4.0 Cl-95* HCO3-29 AnGap-12   Calcium-9.8 Phos-3.8 Mg-2.0

___ 03:50PM BLOOD ALT-41* AST-33 LD(LDH)-168 AlkPhos-133* 
TotBili-0.3
Albumin-4.8 

___ 04:15AM BLOOD Glucose-97 UreaN-12 Creat-0.9 Na-138 
K-4.1 Cl-99 HCO3-28 AnGap-15  Calcium-9.4 Phos-5.0* Mg-2.1
 
Brief Hospital Course:
Mr. ___ was admitted for LTM to better characterize and 
localize the onset of his seizures.  Unfortunately he was found 
to have multiple foci of seizures and is not thought to be a 
candidate for resection.  We have added Zonegran to his home 
regimen (Levitiracetam) with improvement in his EEG after a 
single dose.  He had no further seizure activity and was started 
on a plan to incrementally increase his Zonegran dose to the 
500-600mg/day range.  He will increase his Zonegran dose by 
100mg per week until his ___ with Dr. ___. When this 
medication reaches therapeutic levels, Dr. ___ try to 
wean off the Keppra, since this medication makes Mr. ___ 
feel woozy.
 
Medications on Admission:
Oxcarbazepine (generic) 1200mg BID
Levetiracetam (generic) 750mg BID
Prozac 20mg qDay
Simvastatin 40mg qDay

Allergies: Dilantin
 
Discharge Medications:
1. Fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Oxcarbazepine 600 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
4. Levetiracetam 250 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day).  
5. Zonisamide 100 mg Capsule Sig: Five (5) Capsule PO HS (at 
bedtime): Start by taking 2 every night for 1 week, then 
increase by one pill every week until you reach 5 pills per day.
Disp:*150 Capsule(s)* Refills:*3*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy secondary to traumatic brain injury

 
Discharge Condition:
Mental Status: Clear and coherent but limited by moderate 
telegraphic speech
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent
Baseline R. sided hemiparesis, unchanged

 
Discharge Instructions:
You were admitted for long-term EEG monitoring (LTM) to help 
understand your seizures - specifically, their site of onset and 
the nature of their spread through your brain.  We learned that 
you have multiple sites of seizure onset in your L. brain, a 
situation that is not usually helped by surgery.  You will 
discuss these results in detail with Dr. ___ you 
___ in his clinic.
 
Followup Instructions:
___